US04489077
Methyl 5-(methoxymethyl)-3-isoxazolecarboxylate
A solution of 1.34 g (5 mmole) of methyl 5-(iodomethyl)-3-isoxazolecarboxylate in 20 ml of methanol and 5 ml of THF is added to a solution of methanol and 5 ml of THF is added to a solution of sodium methoxide prepared from 0.15 g (6.5 mmole) sodium and 10 ml of methanol. The reaction mixture is stirred at room temperature for four hours, heated to reflux for 30 minutes, and then worked up as usual giving 0.65 g of product. The crude ester is recrystallized from ether-cyclohexane mixture to give 0.33 g of off-white solid, mp 47.5°-49 C.°.

reactant | methyl 5-(iodomethyl)-3-isoxazolecarboxylate | 5 mmole, 1.34 g | ICC1=CC(=NO1)C(=O)OC | C6H6INO3
reactant | sodium methoxide | C[O-].[Na+]
reactant | sodium | 6.5 mmole, 0.15 g | [Na] | Na
solvent | methanol | 20 ml | CO | CH4O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | methanol | 10 ml | CO | CH4O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | Methyl 5-(methoxymethyl)-3-isoxazolecarboxylate | 0.65 g | COCC1=CC(=NO1)C(=O)OC | C7H9NO4
